US07842696B2
Methyl iodide (227 mg, 0.1 mL, 1.68 mmol) was added drop wise to a suspension of 4-(Methyl-phenyl-amino)-benzoic acid (120 mg, 0.56 mmol) and K2CO3 in DMF (5 mL). The resulting mixture was heated at 80° C. with stirring overnight. The mixture was filtered, cold water was then added, and the product was extracted with EtOAc. The organic layer was washed with saturated brine solution and dried over Na2SO4. The organic layer was then concentrated under reduced pressure to get the residue The obtained residue was purified by column chromatography (using silica gel of 60-120 mesh and 5% EtOAc in Hexane as eluent) to afford 85 mg (75% yield) of 4-(Methyl-phenyl-amino)-benzoic acid methyl ester. 1H-NMR (CDCl3): δ 7.8 (d, 2H), 7.4 (T, 2H), 7.2 (m, 2H), 6.8 (d, 2H), 3.8 (s, 3H), 3.2 (s, 3H).

reactant | Methyl iodide | 1.68 mmol, 0.1 mL, 227 mg | CI | CH3I
reactant | 4-(Methyl-phenyl-amino)-benzoic acid | 0.56 mmol, 120 mg | CN(C1=CC=C(C(=O)O)C=C1)C1=CC=CC=C1 | C14H13NO2
reactant | K2CO3 | C(=O)([O-])[O-].[K+].[K+]
solvent | DMF | 5 mL | CN(C)C=O | C3H7NO
product | 4-(Methyl-phenyl-amino)-benzoic acid methyl ester | 85 mg, 75% yield | COC(C1=CC=C(C=C1)N(C1=CC=CC=C1)C)=O | C15H15NO2
